US06040321
To methylene chloride (60 mL) at -78° C. under argon was added oxalyl chloride (37 mL of 2 M solution in methylene chloride, 74 mmol), followed by DMSO (7.8 g, 100 mmol). The mixture was stirred at 78° C. for 20 min. and to this mixture was added a solution of 1-benzyloxycarbonylamino-2-butanol (13.9 g, 61.8 mmol) in methylene chloride (40 mL). The mixture was stirred at -78° C. for 1 h and triethylamine (21 mL) was added to the mixture. It was warmed to room temperature (rt) and washed successively with 1 N hydrochloric acid and aqueous sodium bicarbonate solution. The methylene chloride solution was dried over MgSO4 and concentrated to afford 1-benzyloxycarbonylamino-2-butanone (11.2 g, 82%) as a solid, which was enough pure for the next reaction. 1H NMR (CDCl3) δ7.32 (m, 5 H), 5.50 (s, 1 H), 5.06 (s, 2 H), 4.07 (s, 2 H), 2.43 (q, J=7.6 Hz, 2 H), 1.06 (t, J=7.6 Hz, 3 H).

reactant | oxalyl chloride | 74 mmol, 2 M, 37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 100 mmol, 7.8 g | CS(=O)C | C2H6OS
reactant | 1-benzyloxycarbonylamino-2-butanol | 61.8 mmol, 13.9 g | C(C1=CC=CC=C1)OC(=O)NCC(CC)O | C12H17NO3
reactant | triethylamine | 21 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-benzyloxycarbonylamino-2-butanone | 11.2 g, 82% | C(C1=CC=CC=C1)OC(=O)NCC(CC)=O | C12H15NO3
